US05475106
2-{N-[2-(N-Methylanilino)carbonylphenyl]-2-phthalimidoacetamideo}acetic acid may be prepared in the following manner: a solution of tert-butyl 2-{N-[2-(N-methylanilino)carbonylphenyl]-2-phthalimidoacetamido]acetate (7.9 g) in trifluoroacetic acid (30 cc) is stirred at a temperature in the region of 20° C. for 24 hours and then poured into water (50 cc). The aqueous phase is extracted with dichloromethane (3×250 cc). The organic phases are combined, washed with water (2×150 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. The residue is treated with petroleum ether (100 cc) and the insoluble product is separated by filtration and dried under reduced pressure (15 kPa) at 30° C. 2-{N-[2-(N-Methylanilino)carbonylphenyl]-2-phthalimidoacetamido}acetic acid (6.8 g) is thereby obtained in the form of an amorphous solid, which is used without further treatment in the subsequent syntheses.

reactant | tert-butyl 2-{N-[2-(N-methylanilino)carbonylphenyl]-2-phthalimidoacetamido]acetate | 7.9 g | CN(C1=CC=CC=C1)C(=O)C1=C(C=CC=C1)N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)CC(=O)OC(C)(C)C | C30H29N3O6
reactant | water | 50 cc | O | H2O
solvent | trifluoroacetic acid | 30 cc | FC(C(=O)O)(F)F | C2HF3O2
product | 2-{N-[2-(N-Methylanilino)carbonylphenyl]-2-phthalimidoacetamido}acetic acid | 6.8 g | CN(C1=CC=CC=C1)C(=O)C1=C(C=CC=C1)N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)CC(=O)O | C26H21N3O6
